### PR TITLE
feat: surreal gaps (again)

### PR DESCRIPTION
**Pull request by vihdzp**
This is a partial port of #115 using the theory of concept lattices. This avoids a lengthy proof that surreal gaps form a complete lattice, though we still have to do busywork in the form of setting up aliases that hide away the concept implementation.

This PR embeds the entirety of the concept file from Mathlib; we recently did some major refactors, and I want those to be included in now rather than later. I did actually add a few theorems to that file, but they all exist (or will shortly) in other Mathlib PRs, so I don't think any reviewers of this PR need to look too carefully into them.

I didn't port the results on `iGameLeft` and `iGameRight` just yet. I think those can go into a subsequent PR.

Co-authored by: @plp127

### CODE REVIEW

File: CombinatorialGames/Surreal/Cut.lean [hunk 1]
```diff
@@ -0,0 +1,164 @@
...
+open Set IGame
+
+/-- A surreal cut consists of two complementary sets of surreals, where every surreal in the former
+is less than every surreal in the latter. -/
+abbrev Cut := Concept Surreal Surreal (· < ·)
+
+namespace Cut
+
+/-- The left set in a cut. This is an alias for `Concept.extent`. -/
+def left (x : Cut) := x.extent
```
Comment (tristan-f-r) [inline CombinatorialGames/Surreal/Cut.lean:43]: Should these (`left`/`right`) be more reducible? (e.g,. moving to `abbrev`?)

File: CombinatorialGames/Surreal/Cut.lean [hunk 2]
```diff
@@ -0,0 +1,164 @@
...
+  apply Concept.copy_eq <;> simp <;> rfl
+
+theorem leftSurreal_lt_rightSurreal (x : Surreal) : leftSurreal x < rightSurreal x :=
+  lt_iff_nonempty_inter.2 ⟨x, by simp⟩
+
+theorem leftGame_lt_rightGame_iff {x : Game} :
+    leftGame x < rightGame x ↔ x ∈ range Surreal.toGame := by
+  constructor
+  · rw [lt_iff_nonempty_inter]
+    rintro ⟨y, hyr, hyl⟩
```
Comment (tristan-f-r) [inline CombinatorialGames/Surreal/Cut.lean]:
```suggestion
    intro ⟨y, hyr, hyl⟩
```

File: CombinatorialGames/Surreal/Cut.lean [hunk 3]
```diff
@@ -0,0 +1,164 @@
...
+
+@[simp] theorem left_leftGame (x : Game) : (leftGame x).left = {y | y.toGame ⧏ x}:= rfl
+@[simp] theorem right_leftGame (x : Game) : (leftGame x).right = {y | x ≤ y.toGame} := rfl
+@[simp] theorem left_rightGame (x : Game) : left (rightGame x) = {y | y.toGame ≤ x} := rfl
+@[simp] theorem right_rightGame (x : Game) : right (rightGame x) = {y | x ⧏ y.toGame} := rfl
+
+@[simp] theorem left_leftSurreal (x : Surreal) : left (leftSurreal x) = Iio x := rfl
+@[simp] theorem right_leftSurreal (x : Surreal) : right (leftSurreal x) = Ici x := rfl
+@[simp] theorem left_rightSurreal (x : Surreal) : left (rightSurreal x) = Iic x := rfl
+@[simp] theorem right_rightSurreal (x : Surreal) : right (rightSurreal x) = Ioi x := rfl
```
Comment (tristan-f-r) [inline CombinatorialGames/Surreal/Cut.lean]:
```suggestion
@[simp] theorem left_leftSurreal (x : Surreal) : (leftSurreal x).left = Iio x := rfl
@[simp] theorem right_leftSurreal (x : Surreal) : (leftSurreal x).right = Ici x := rfl
@[simp] theorem left_rightSurreal (x : Surreal) : (rightSurreal x).left = Iic x := rfl
@[simp] theorem right_rightSurreal (x : Surreal) : (rightSurreal x).right = Ioi x := rfl
```

File: CombinatorialGames/Surreal/Cut.lean [hunk 4]
```diff
@@ -0,0 +1,164 @@
...
+def rightSurreal : Surreal ↪o Cut where
+  toFun x := (rightGame x.toGame).copy
+    (Iic x) (by rw [rightGame]; aesop) (Ioi x) (by rw [rightGame]; aesop)
+  inj' _ := by simp [Concept.copy, Ioi_inj]
+  map_rel_iff' := Iic_subset_Iic
+
+@[simp] theorem left_leftGame (x : Game) : (leftGame x).left = {y | y.toGame ⧏ x}:= rfl
+@[simp] theorem right_leftGame (x : Game) : (leftGame x).right = {y | x ≤ y.toGame} := rfl
+@[simp] theorem left_rightGame (x : Game) : left (rightGame x) = {y | y.toGame ≤ x} := rfl
+@[simp] theorem right_rightGame (x : Game) : right (rightGame x) = {y | x ⧏ y.toGame} := rfl
```
Comment (tristan-f-r) [inline CombinatorialGames/Surreal/Cut.lean]:
```suggestion
@[simp] theorem left_rightGame (x : Game) : (rightGame x).left = {y | y.toGame ≤ x} := rfl
@[simp] theorem right_rightGame (x : Game) : (rightGame x).right = {y | x ⧏ y.toGame} := rfl
```

File: CombinatorialGames/Mathlib/Concept.lean [hunk 5]
```diff
@@ -0,0 +1,412 @@
...
+variable {c d : Concept α β r} {c' : Concept α α r'}
+
+attribute [simp] upperPolar_extent lowerPolar_intent
+
+@[ext]
+theorem ext (h : c.extent = d.extent) : c = d := by
+  obtain ⟨s₁, t₁, h₁, _⟩ := c
+  obtain ⟨s₂, t₂, h₂, _⟩ := d
+  dsimp at h₁ h₂ h
+  substs h h₁ h₂
```
Comment (tristan-f-r) [inline CombinatorialGames/Mathlib/Concept.lean:142]:
```suggestion
  obtain ⟨s₂, t₂, rfl, _⟩ := d
  subst h
```

File: CombinatorialGames/Mathlib/Concept.lean [hunk 6]
```diff
@@ -0,0 +1,412 @@
...
+  rfl
+
+theorem ext' (h : c.intent = d.intent) : c = d := by
+  obtain ⟨s₁, t₁, _, h₁⟩ := c
+  obtain ⟨s₂, t₂, _, h₂⟩ := d
+  dsimp at h₁ h₂ h
+  substs h h₁ h₂
```
Comment (tristan-f-r) [inline CombinatorialGames/Mathlib/Concept.lean:149]: (Whoops - this should also use `rfl` on the obtain above).

```suggestion
  obtain ⟨s₂, t₂, _, rfl⟩ := d
  subst h
```

File: CombinatorialGames/Mathlib/Concept.lean [hunk 7]
```diff
@@ -0,0 +1,412 @@
...
+theorem extent_injective : Injective (@extent α β r) := fun _ _ => ext
+
+theorem intent_injective : Injective (@intent α β r) := fun _ _ => ext'
+
+/-- Copy a concept, adjusting definitional equalities. -/
+def copy (c : Concept α β r) (e : Set α) (he : e = c.extent) (i : Set β) (hi : i = c.intent) :
+    Concept α β r where
+  extent := e
+  intent := i
+  upperPolar_extent := by simp_all
```
Comment (tristan-f-r) [inline CombinatorialGames/Mathlib/Concept.lean:161]: (In a proof, I would suggest replacing this with `rw [he, hi, upperPolar_extent]`. Do we prefer `simp_all` here since it's in `def`?)

**Review by tristan-f-r — APPROVED** [review]
This looks great! Just a few suggestions about inconsistencies/golfs, and one style question.

File: CombinatorialGames/Mathlib/Concept.lean (hunk 6 above)
Comment (tristan-f-r) [inline CombinatorialGames/Mathlib/Concept.lean:149]: (Corrects an earlier comment)

```suggestion
  obtain ⟨s₁, t₁, _, rfl⟩ := c
  obtain ⟨s₂, t₂, _, rfl⟩ := d
  subst h
  rfl
```

Comment (vihdzp) [reply CombinatorialGames/Mathlib/Concept.lean:149]: This code exists in Mathlib, you should PR your suggestion there!

File: CombinatorialGames/Surreal/Cut.lean (hunk 1 above)
Comment (vihdzp) [reply CombinatorialGames/Surreal/Cut.lean:43]: I don't think so? I think that might interact poorly with `simp`, which might end up applying lemmas that rewrite `left`/`right` back into `extent`/`intent`.

File: CombinatorialGames/Mathlib/Concept.lean (hunk 7 above)
Comment (vihdzp) [reply CombinatorialGames/Mathlib/Concept.lean:161]: This is a proof, so it doesn't matter. Even if it's a bit unnecessary I like `simp_all` here, it's a nice golf IMO.
